US05595989
To a solution of 11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine (10 g, 0.048 mol, Synthesis, (1985), 550) in dry dimethylformamide (100 ml) kept under an atmosphere of nitrogen, sodium hydride (2.1 g, 0.052 mol, 60% dispersion in oil) was added, and the reaction mixture was stirred for 1.5 h. Iodomethane (3.27 ml, 0.052 mol) was slowly added keeping the temperature below 30° C. and the mixture was stirred overnight. The reaction mixture was quenched with saturated ammonium chloride (20 ml) and poured onto ice water (300 ml). The solid was filtered off and washed with plenty of water and dried. This yielded 10.4 g of crude 10-methyl-11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine which was recrystallised from methanol (200 ml), to give 6.7 g (63%) of 10-methyl-11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine. M.p. 210°-211° C.

reactant | 11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine | 0.048 mol, 10 g | O=C1C2=C(NC3=C(N1)C=CC=C3)C=CC=C2 | C13H10N2O
reactant | sodium hydride | 0.052 mol, 2.1 g | [H-].[Na+]
reactant | Iodomethane | 0.052 mol, 3.27 ml | IC | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 10-methyl-11-oxo-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepine | 6.7 g, 63% | CN1C2=C(NC3=C(C1=O)C=CC=C3)C=CC=C2 | C14H12N2O
